US04462943
(a) (trans)-4-(Methylthio)-L-proline, methyl ester, hydrochloride
To a stirred solution of (trans)-4- methylthio-L-proline, hydrochloride (1.5 g., 7.59 mmole) [Patchett et al., "Studies on Hydroxyproline", JACS, Vol. 79, p. 185-192 (1957)] in 40 ml. of methanol at -30° under argon is added 3.32 ml. (6 eq.) of thionyl chloride dropwise over 5 minutes. The reaction mixture is worked up according to the procedure of Example 95(e). Recrystallization from acetonitrile/ether gives 630 mg. of (trans)-4- (methylthio-L-proline, methyl ester, hydrochloride as a colorless, crystalline material; m.p. 155-156°; [α]D20 =-11.3° (c=1.71, methanol).

reactant | (trans)-4- methylthio-L-proline, hydrochloride | 7.59 mmole, 1.5 g | Cl.C[C@@H]1C[C@H](NC1)C(=S)O
reactant | thionyl chloride | 6 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | methylthio-L-proline, methyl ester, hydrochloride | Cl.CN1[C@H](C(=S)OC)CCC1
solvent | methanol | CO | CH4O
product | (trans)-4-(Methylthio)-L-proline, methyl ester, hydrochloride | Cl.CS[C@@H]1C[C@H](NC1)C(=O)OC | InChI=1S/C7H13NO2S.ClH/c1-10-7(9)6-3-5(11-2)4-8-6;/h5-6,8H,3-4H2,1-2H3;1H/t5-,6+;/m1./s1
